US06008230
To a mixture of 3-bromo-8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)quinoline (50 mg) and N-methylpyrrolidone were added imidazole (11 mg), potassium carbonate (22.4 mg) and copper(I) oxide (7.74 mg), and the mixture was stirred for 1.5 hours at 60° C. and for 1 hour at 80° C. The mixture was partitioned between dichloromethane and water, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography and crystallized from diisopropyl ether to give 3-bromo-8-[2,6-bis(imidazol-1-yl)benzoylamino]-4-(imidazol-1-yl)quinoline (17 mg).

reactant | 3-bromo-8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)quinoline | 50 mg | BrC=1C=NC2=C(C=CC=C2C1N1C=NC=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H11BrCl2N4O
reactant | imidazole | 11 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 22.4 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) oxide | 7.74 mg | [Cu-]=O
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 3-bromo-8-[2,6-bis(imidazol-1-yl)benzoylamino]-4-(imidazol-1-yl)quinoline | 17 mg | BrC=1C=NC2=C(C=CC=C2C1N1C=NC=C1)NC(C1=C(C=CC=C1N1C=NC=C1)N1C=NC=C1)=O | C25H17BrN8O
